US04892966
201.3 g (0.997 mol) of crude methyl 4-methoxy-2-acetonylacetoacetate are held at reflux temperature for 3 hours with 2.12 liters (0.5 mol) of 2.5% Na2CO3 solution. The reaction mixture is extracted 3 times with 100 ml of CH2Cl2 each time. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator to give 99.90 g (79.5%) of 2-methoxy-3-methyl-2-cyclopenten-1-one, content 84.2%; b.p. 82°-84° C./27 mbar.

reactant | methyl 4-methoxy-2-acetonylacetoacetate | 0.997 mol, 201.3 g | COCC(C(C(=O)OC)CC(=O)C)=O | C9H14O5
reactant | Na2CO3 | 0.5 mol, 2.12 liters | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-methoxy-3-methyl-2-cyclopenten-1-one | 99.90 g, 79.5% | COC=1C(CCC1C)=O | C7H10O2
